US06376490B1
Methoxyacetylchloride (27.3 mL, 32.4 g, 0.30 mol) was added to a stirred mixture of 5-amino-6,7-dichloro-2,3-dimethoxyquinoxaline (Preparation 26, 73.8 g, 0.27 mol) and pyridine (26.4 mL, 25.8 g, 0.33 mol) in dichloromethane (1.2L) at room temperature under nitrogen. After 18 hours stirring at room temperature, the mixture was washed with 2M aqueous hydrochloric acid solution followed by brine, then dried (MgSO4) and concentrated under reduced pressure. The residue was triturated with methanol and filtered to give 6,7-dichloro-2,3-dimethoxy-5-methoxyacetamidoquinoxaline (82.0 g, 88%) as an off-white solid, mp 171-173° C.

reactant | Methoxyacetylchloride | 0.30 mol, 27.3 mL, 32.4 g | COCC(=O)Cl | C3H5ClO2
reactant | 5-amino-6,7-dichloro-2,3-dimethoxyquinoxaline | 0.27 mol, 73.8 g | NC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C10H9Cl2N3O2
reactant | pyridine | 0.33 mol, 26.4 mL, 25.8 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1.2L | ClCCl | CH2Cl2
product | 6,7-dichloro-2,3-dimethoxy-5-methoxyacetamidoquinoxaline | 82.0 g, 88% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)NC(COC)=O | C13H13Cl2N3O4
